US07304081B2
Step 1c: (1R)-1′-({1-[4-(3,5-dimethylisoxazol-4-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
To a solution of (1R)-1′-{[1-(4-bromophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (20 mg, 0.00005 mol) in tetrahydrofuran (1.0 mL, 0.012 mol) were added 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoxazole (11.9 mg, 0.0000534 mol), tris(dibenzylideneacetone)dipalladium(0) (0.2 mg, 0.0000002 mol), tri-tert-butylphosphine (0.12 mg, 5.8E-7 mol) and potassium fluoride (9.3 mg, 0.00016 mol), and the resulting mixture was heated at 150 Celsius under microwave for 50 minutes. The mixture then was cooled down to r.t. and filtered. The filtrate was diluted with methanol, and the desired compound was obtained by revised phase prep-HPLC. MS (ESI): 429.2 (M+H+).

reactant | (1R)-1′-{[1-(4-bromophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.00005 mol, 20 mg | BrC1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C21H18BrNO3
reactant | tetrahydrofuran | 0.012 mol, 1.0 mL | O1CCCC1 | C4H8O
reactant | 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoxazole | 0.0000534 mol, 11.9 mg | CC1=NOC(=C1B1OC(C(O1)(C)C)(C)C)C | C11H18BNO3
reactant | tri-tert-butylphosphine | 5.8E-7 mol, 0.12 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | potassium fluoride | 0.00016 mol, 9.3 mg | [F-].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0000002 mol, 0.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1R)-1′-({1-[4-(3,5-dimethylisoxazol-4-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | CC1=NOC(=C1C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O)C | C26H24N2O4
